US04997950
Boc-L-Leu-OSu (5 g, 15.24 mmol) was dissolved in a solution (200 ml) containing equal volumes of tetrahydrofuran and 5% Na2CO3. β-Alanine (2.71 g, 30.48 mmol) was added and the reaction mixture was stirred at room temperature for 4 hours. The organic solvent was removed in vacuo and the resulting aqueous solution was washed with diethyl ether (2×50 ml). On acidification with 5% NaHSO4, the product precipitated and was extracted into ethyl acetate (150 ml). The organic layer was washed with brine and dried over magnesium sulphate. On reduction to dryness, Boc-Leu-β-Ala was initially obtained as a clear oil but on standing at -20° C., formed an amorphous solid. The product was judged homogeneous by tlc in chloroform/methanol (4:1) (Rf 0.514) or chloroform/methanol (1:1) (Rf 0.554). Yield 2.89 g (63%), m.p. 91°-92° C. (Found: C, 55.61; H, 8.61; N, 9.29. C14H26O5N2 requires C, 55.63; H, 8.61; N, 9.27%).

reactant | Boc-L-Leu-OSu | 15.24 mmol, 5 g | N([C@@H](CC(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C15H24N2O6
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | β-Alanine | 30.48 mmol, 2.71 g | NCCC(=O)O | C3H7NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | t-Butyloxycarbonyl-L-Leucyl-β-Alanine | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)NCCC(=O)O | C14H26N2O5
